US04668697
5-[2-(Dimethylamino)ethylsulfonylmethyl]-2-sulfamoylbenzo[b]thiophene
To a solution of 5-[2-(dimethylamino)ethylthiomethyl]-2-sulfamoylbenzo[b]thiophene (2.34 g, 0.0064 mol) in 20 ml of water at 40-45° C. was added potassium peroxymonosulfate, "oxone", (5.93 g, 0.0096 mol). The mixture was stirred at room temperature over night and heated on the steam bath for 2 1/2 hours. The mixture was cooled and basified with NaHCO3. Filtration gave 2.5 g of crude product. Purification by silica gel chromatography eluting with 10% (V/V) methanol/CHCl3 gave 0.78 g of pale pink solid, m.p. 185.5-187° C., dec. (Yield 34%).

reactant | 5-[2-(dimethylamino)ethylthiomethyl]-2-sulfamoylbenzo[b]thiophene | 0.0064 mol, 2.34 g | CN(CCSCC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1)C | C13H18N2O2S3
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | oxone | OOS(=O)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | water | 20 ml | O | H2O
product | 5-[2-(Dimethylamino)ethylsulfonylmethyl]-2-sulfamoylbenzo[b]thiophene | 0.78 g, Yield 34% | CN(CCS(=O)(=O)CC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1)C | C13H18N2O4S3
